US07618990B2
Step 7: 3-[4-(4-chloro-3-fluorophenyl)-1,3-thiazol-2-yl]-4,4-dimethyl-1,3-oxazolidin-2-one
In the same manner as described in step 7 of Example 78, using 2-[4-(4-chloro-3-fluoro-phenyl)-thiazol-2-ylamino]-2-methyl-propan-1-ol (810 mg, 2.66 mmol), prepared in the previous step, triphosgene (946 mg, 3.19 mmol) and diisopropylethyl amine (1.1 mL) in 20 mL of methylene chloride, the title compound was isolated (125 mg, 14%) after purification on silica gel using 6:1 hexane:ethyl acetate as the eluent. mp 140-142° C.

reactant | 2-[4-(4-chloro-3-fluoro-phenyl)-thiazol-2-ylamino]-2-methyl-propan-1-ol | 2.66 mmol, 810 mg | ClC1=C(C=C(C=C1)C=1N=C(SC1)NC(CO)(C)C)F | C13H14ClFN2OS
reactant | triphosgene | 3.19 mmol, 946 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethyl amine | 1.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(4-chloro-3-fluorophenyl)-1,3-thiazol-2-yl]-4,4-dimethyl-1,3-oxazolidin-2-one | ClC1=C(C=C(C=C1)C=1N=C(SC1)N1C(OCC1(C)C)=O)F | C14H12ClFN2O2S
